US07208629B2
2-Fluoro-4-methylbenzoic acid (244 mg) was added in portions to a mixture of bromine (1 ml) and iron powder (60 mg) and the reaction stirred in a sealed vial at room temperature for 25 minutes. The reaction was poured into aqueous sodium thiosulphate and extracted with ethyl acetate (x2). The combined extracts were washed with brine, dried (magnesium sulphate) and the solvent evaporated under vacuum. The residue was recrystallised from cyclohexane to give 5-bromo-2-fluoro-4-methylbenzoic acid.

reactant | 2-Fluoro-4-methylbenzoic acid | 244 mg | FC1=C(C(=O)O)C=CC(=C1)C | C8H7FO2
reactant | bromine | 1 ml | BrBr | Br2
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | iron | 60 mg | [Fe] | Fe
product | 5-bromo-2-fluoro-4-methylbenzoic acid | BrC=1C(=CC(=C(C(=O)O)C1)F)C | C8H6BrFO2
